US05741781
EXAMPLE 23: N-[N-[2-Acetylthio-3-(para-chlorophenyl)propanoyl]glycyl]-5-(ortho-hydroxyphenyl)proline methyl ester
Condensation of 2-acetylthio-3-(para-chlorophenyl)propanoic acid with N-glycyl-5-(ortho-hydroxyphenyl)proline methyl ester, obtained in accordance with the same protocols as those described in Preparation G, yields the expected product in the form of an oil after chromatography in an n-hexane/ethyl acetate mixture, 1:1.

reactant | 2-acetylthio-3-(para-chlorophenyl)propanoic acid | C(C)(=O)SC(C(=O)O)CC1=CC=C(C=C1)Cl | C11H11ClO3S
reactant | N-glycyl-5-(ortho-hydroxyphenyl)proline methyl ester | COC([C@H]1N(C(CC1)C1=C(C=CC=C1)O)C(CN)=O)=O | C14H18N2O4
solvent | n-hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | N-[N-[2-Acetylthio-3-(para-chlorophenyl)propanoyl]glycyl]-5-(ortho-hydroxyphenyl)proline methyl ester | Yield: 53% | COC([C@H]1N(C(CC1)C1=C(C=CC=C1)O)C(CNC(C(CC1=CC=C(C=C1)Cl)SC(C)=O)=O)=O)=O | C25H27ClN2O6S
